US04017629
15.1 g of o-nitrobenzaldehyde, 16.8 g of 3-aminocrotonic acid piperidide and 13.6 g of methylsulphonylacetone are stirred in 100 ml of hexamethylphosphoric acid triamide for 10 hours under nitrogen at a bath temperature of 115° C. The mixture is cooled and dissolved in 600 ml of ethyl acetate and the solution is washed with a mixture of 600 ml of water, 90 ml of methanol and 90 ml of sodium chloride solution. The organic phase is separated off and the aqueous phase, in which a dark brown product precipitates, is filtered. The crystalline product is dried by azeotropic distillation on a rotary evaporator and treated twice in methanol/chloroform with animal charcoal. The filtrate is evaporated and the residue is recrystallised from isopropanol. 2,6-Dimethyl- 3-piperidinocarbonyl-4-(2-nitrophenyl)-5-methylsulphonyl-1,4-dihydropyridine, which is thus obtained, melts at 275°-276° C.

reactant | o-nitrobenzaldehyde | 15.1 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | 3-aminocrotonic acid piperidide | 16.8 g | N\C(=C/C(=O)N1CCCCC1)\C | C9H16N2O
reactant | methylsulphonylacetone | 13.6 g | CS(=O)(=O)CC(C)=O | C4H8O3S
solvent | hexamethylphosphoric acid triamide | 100 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | ethyl acetate | 600 ml | C(C)(=O)OCC | C4H8O2
product | 2,6-Dimethyl- 3-piperidinocarbonyl-4-(2-nitrophenyl)-5-methylsulphonyl-1,4-dihydropyridine | CC=1NC(=C(C(C1C(=O)N1CCCCC1)C1=C(C=CC=C1)[N+](=O)[O-])S(=O)(=O)C)C | C20H25N3O5S
